US08871756B2
N-[(3-Amino-1,1-dioxidothietan-3-yl)methyl]-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine
The title compound was prepared in analogy to Example 116-1 in Scheme 57 by using 2,4-dichloro-6-methylquinazoline, 3-(aminomethyl)-N,N-dibenzyl(1,1-dioxido)thietan-3-amine and 5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepine. MS obsd. (ESI+) [(M+H)+] 474, 1H NMR (400 MHz, CD3OD) δ ppm 7.73 (s, 1 H), 7.65 (d, 1 H), 7.60 (d, 1 H), 7.29-7.45 (m, 4 H), 5.02 (s, 2 H), 4.04-4.62 (m, 2 H), 4.34 (t, 2 H), 4.12 (t, 2 H), 4.01-4.04 (m, 2 H), 2.47 (m, 2 H), 2.41 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 3-(aminomethyl)-N,N-dibenzyl(1,1-dioxido)thietan-3-amine | NCC1(CS(C1)(=O)=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2O2S
reactant | 5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepine | FC1(CCNCC2=C1C=CC=C2)F | C10H11F2N
product | N-[(3-Amino-1,1-dioxidothietan-3-yl)methyl]-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine | NC1(CS(C1)(=O)=O)CNC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)(F)F)C=CC=C2 | C23H25F2N5O2S
